US09375510B2
Copolymer A. Preparation of Isooctyl Acrylate/Acrylamide/Vinyl Acetate (75/5/20) Copolymer
Isooctyl acrylate (IOA) (75 g), acrylamide (ACM) (5 g), vinyl acetate (VOAc) (20 g), ethyl acetate (136.5 g), and methanol (13.5 g) were added to a 1 quart vessel and the vessel was purged with nitrogen (2 minutes, 1.5 liters per minute nitrogen flow). 2,2′-azobis(2,4-dimethylvaleronitrile) (0.05 g) was added and the reaction was agitated at 42° C. for 6 hours. An additional portion of 2,2′-azobis(2,4-dimethylvaleronitrile) (0.05 g) was added and the vessel was again purged with nitrogen (2 minutes, 1.5 liters per minute nitrogen flow). The reaction was maintained at 42° C. for an additional 22 hours. The temperature was raised to 57° C. and the reaction was maintained an additional 6 hours. The resulting polymerization reaction product was diluted with ethyl acetate (30.6 g) and methanol (5 g). The percent solids of the resultant copolymer solution was 31 weight %. The measured inherent viscosity was 1.34 dL/g.

reactant | Isooctyl acrylate | 75 g | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | acrylamide | 5 g | C(C=C)(=O)N | C3H5NO
reactant | vinyl acetate | 20 g | C(C)(=O)OC=C | C4H6O2
reactant | methanol | 13.5 g | CO | CH4O
reactant | methanol | 5 g | CO | CH4O
solvent | ethyl acetate | 30.6 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 136.5 g | C(C)(=O)OCC | C4H8O2
product | Isooctyl Acrylate Acrylamide Vinyl Acetate | C(C=C)(=O)OCCCCCC(C)C.C(C=C)(=O)N.C(C)(=O)OC=C | InChI=1S/C11H20O2.C4H6O2.C3H5NO/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-3-6-4(2)5;1-2-3(4)5/h4,10H,1,5-9H2,2-3H3;3H,1H2,2H3;2H,1H2,(H2,4,5)
